US06140274
To a mixture of 0.60 g of 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde, 0.29 g of zinc dust and 10 ml of N,N-dimethylformamide was added ethyl trichloroacetate with stirring at room temperature. After stirring at room temperature for 2 hours, the reaction mixture was poured into 10 ml of diluted hydrochloric acid and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over magnesium sulfate and then evaporated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.04 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-chloro-3-ethoxycarbonyl-2-propenyloxy)butyloxy)benzene (yield, 5%), nD23.0 1.5348.

reactant | 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde | 0.60 g | ClC1=C(OCCCCOCC=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C15H16Cl4O4
reactant | ethyl trichloroacetate | ClC(C(=O)OCC)(Cl)Cl | C4H5Cl3O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
catalyst | zinc | 0.29 g | [Zn] | Zn
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-chloro-3-ethoxycarbonyl-2-propenyloxy)butyloxy)benzene | 0.04 g, 5% | ClC=1C=C(C=C(C1OCCCCOCC=C(C(=O)OCC)Cl)Cl)OCC=C(Cl)Cl | C19H21Cl5O5
